US07666888B2
4,4-Difluoro-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}piperidine
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 4,4-difluoropiperidine hydrochloride (9.5 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (3.2 mg). Calcd for C16H16F2N2O2: 306.1180, found 306.1179.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 4,4-difluoropiperidine hydrochloride | 0.060 mmol, 9.5 mg | Cl.FC1(CCNCC1)F
product | 4,4-Difluoro-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}piperidine | FC1(CCN(CC1)C(=O)C=1C=NOC1C1=CC=C(C=C1)C)F | C16H16F2N2O2
